US08404709B2
4-(2-Acetyl-3-oxobut-1-en-1-yl)-1-naphthonitrile
240 mg (1.33 mmol) of 4-formyl-1-naphthonitrile, 132.6 mg (1.33 mmol) of 2,4-pentanedione, 119.3 mg (1.99 mmol) of acetic acid and 22.6 mg (0.27 mmol) of piperidine are dissolved in 20 ml of dichloromethane and heated under reflux with an inverse water trap overnight. Cooling is followed by washing twice with water, and the organic phase is dried with magnesium sulfate. The solvent is removed in a rotary evaporator and the residue is purified by column chromatography (silica gel, mobile phase: initially dichloromethane, then isohexane/ethyl acetate 3:1). The residue after concentration of the product fractions is crystallized from diethyl ether and dried under high vacuum. 340 mg (97.5% of theory) of the title compound are obtained.

reactant | 4-formyl-1-naphthonitrile | 1.33 mmol, 240 mg | C(=O)C1=CC=C(C2=CC=CC=C12)C#N | C12H7NO
reactant | 2,4-pentanedione | 1.33 mmol, 132.6 mg | CC(CC(C)=O)=O | C5H8O2
reactant | acetic acid | 1.99 mmol, 119.3 mg | C(C)(=O)O | C2H4O2
reactant | piperidine | 0.27 mmol, 22.6 mg | N1CCCCC1 | C5H11N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-(2-Acetyl-3-oxobut-1-en-1-yl)-1-naphthonitrile | C(C)(=O)C(=CC1=CC=C(C2=CC=CC=C12)C#N)C(C)=O | C17H13NO2
